US07253174B2
4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile (2.19 g, 10 mmol), 3-amino-4,N-dimethyl-benzamide(1.64 g, 10 mmol), and DIEA(1.40 g, 18.8 mmol) were mixed in THF (20 mL). The resulting mixture was stirred at room temperature for overnight. The solvent was evaporated and the residue was partitioned between ethyl acetate and water. The organic layer was concentrated and the crude product was purified by flash chromatography to obtain 3-(6-chloro-5-cyano-2-methylsulfanyl-pyrimidin-4-ylamino)-4,N-dimethyl-benzamide (2.78 g, 80%). MS (m/z): 348 (M+H).

reactant | 4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile | 10 mmol, 2.19 g | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
reactant | 3-amino-4,N-dimethyl-benzamide | 10 mmol, 1.64 g | NC=1C=C(C(=O)NC)C=CC1C | C9H12N2O
reactant | DIEA | 18.8 mmol, 1.40 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(6-chloro-5-cyano-2-methylsulfanyl-pyrimidin-4-ylamino)-4,N-dimethyl-benzamide | 2.78 g, 80% | ClC1=C(C(=NC(=N1)SC)NC=1C=C(C(=O)NC)C=CC1C)C#N | C15H14ClN5OS
